US07351719B2
Z15) 3-chloro-4-(3-diethylamino-propyl)-phenylamine
2.00 g (7.498 mmol) of 3-chloro-4-(3-diethylamino-prop-1-ynyl)-phenylamine (intermediate product Z13b) was added to a suspension of 0.50 g Raney-Ni in 50 mL abs. MeOH and the mixture was hydrogenated for 2.5 hours at RT and 50 psi H2 atmosphere. The catalyst was filtered off, the filtrate evaporated down i. vac. and the residue was purified by column chromatography (silica gel, gradient dichloromethane/10% conc. aqueous ammonia in MeOH 100:0→5:95).

reactant | 3-chloro-4-(3-diethylamino-prop-1-ynyl)-phenylamine | 7.498 mmol, 2.00 g | ClC=1C=C(C=CC1C#CCN(CC)CC)N | C13H17ClN2
catalyst | Ni | [Ni] | Ni
solvent | MeOH | CO | CH4O
product | 3-chloro-4-(3-diethylamino-propyl)-phenylamine | ClC=1C=C(C=CC1CCCN(CC)CC)N | C13H21ClN2
